US07635684B2
3-(β-D-Glucopyranosyloxy)-4-({4-[2-(3-hydroxypropylamino)-ethoxy]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 57 using 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-hydroxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 3-amino-1-propanol instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methyl-1-propanol, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-hydroxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCO)C)C(C)C | C30H40N2O12
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
reactant | 2-amino-2-methyl-1-propanol | NC(CO)(C)C | C4H11NO
product | 3-(β-D-Glucopyranosyloxy)-4-({4-[2-(3-hydroxypropylamino)-ethoxy]-2-methylphenyl}methyl)-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCNCCCO)C)C(C)C | C25H39N3O8
